US08609653B2
2-(1-benzyl-4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(tert-butoxy)acetic acid
The title compound was prepared in a manner similar to that described in Example 27, Step H from methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and benzyl bromide. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.51-7.43 (m, 1 H), 7.39-7.28 (m, 5 H), 7.24-7.17 (m, 1 H), 7.06 (t, J=3.3 Hz, 1 H), 6.94 (dd, J=6.0, 8.2 Hz, 1 H), 6.29 (dd, J=3.4, 11.6 Hz, 1 H), 5.66-5.48 (m, 3 H), 4.32-4.23 (m, 2 H), 2.97-2.81 (m, 2 H), 2.79 (s, 3 H), 2.15-2.06 (m, 2 H), 0.97 (s, 9 H); LC/MS (m/z) ES+=485.37 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 2-(1-benzyl-4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(tert-butoxy)acetic acid | C(C1=CC=CC=C1)N1C=CC=2C1=NC(=C(C2C=2C=C1CCCOC1=CC2)C(C(=O)O)OC(C)(C)C)C | C30H32N2O4
